US04517187
To a stirred solution of 1.0 M borane in tetrahydrofuran (100 ml) maintained under nitrogen at ambient temperature was added cis-1,3,4,6,7,11b-hexahydro-2-butyryl-7-phenyl-2H-pyrazino[2,1-a]isoquinoline (8.6 g, 0.021 m) and and the mixtdre heated to reflux for 3 hours, then cooled in an ice bath and carefully treated with 20% HCl (100 ml). This mixture was heated to reflux for 1 hour, then cooled, and the tetrahydrofuran removed on an aspirator. The remaining aqueous solution was basified to pH 11 with 50% NaOH and extracted with chloroform (3×50 ml). The extracts were dried over MgSO4 and evaporated to an oily residue. This was dissolved in methanol (50 ml) and isopropanol (50 ml) and acidified with HCl gas. The white solid, which precipitated immediately, was collected by filtration, recrystallized from methanol/ether, and vacuum dried at 90° for 24 hours to give 5.7 g of cis-1,3,4,6,7,11b-hexahydro- 2-butyl-7-phenyl-2H-pyrazino[2,1-a]isoquinoline dihydrochloride, m.p. 261°-262°.

reactant | borane | 1.0 M | B | BH3
reactant | cis-1,3,4,6,7,11b-hexahydro-2-butyryl-7-phenyl-2H-pyrazino[2,1-a]isoquinoline | 8.6 g | C(CCC)(=O)N1C[C@@H]2N(C[C@H](C3=CC=CC=C23)C2=CC=CC=C2)CC1 | C22H26N2O
reactant | HCl | 100 ml | Cl | ClH
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | cis-1,3,4,6,7,11b-hexahydro- 2-butyl-7-phenyl-2H-pyrazino[2,1-a]isoquinoline dihydrochloride | 5.7 g | Cl.Cl.C(CCC)N1C[C@@H]2N(C[C@H](C3=CC=CC=C23)C2=CC=CC=C2)CC1 | InChI=1S/C22H28N2.2ClH/c1-2-3-13-23-14-15-24-16-21(18-9-5-4-6-10-18)19-11-7-8-12-20(19)22(24)17-23;;/h4-12,21-22H,2-3,13-17H2,1H3;2*1H/t21-,22-;;/m0../s1
